US08222262B2
Cyclohexyl-(2-indazol-1-yl-6-methyl-pyrimidin-4-yl)-amine (Compound A5)
Was prepared according to Method A from 2,4-dichloro-6-methylpyrimidine, cyclohexylamine and indazole. LC-ESI-HRMS of [M+H]+ shows 308.1859 Da. Calc. 308.18752 Da, dev. −5.3 ppm.

reactant | 2,4-dichloro-6-methylpyrimidine | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | indazole | N1N=CC2=CC=CC=C12 | C7H6N2
product | Cyclohexyl-(2-indazol-1-yl-6-methyl-pyrimidin-4-yl)-amine | C1(CCCCC1)NC1=NC(=NC(=C1)C)N1N=CC2=CC=CC=C12 | C18H21N5
